US07365069B2
Synthesis of ethyl 1-(4-fluorophenyl)-4-(methylthio)-2-[4-(methylthio)phenyl]-6-oxo-1,6-dihydropyrimidine-5-carboxylate
The title compound was prepared from diethyl [bis(methylthio)methylene]malonate (0.88 g, 3.3 mmol) and N-(4-fluorophenyl)-4-(methylthio)benzenecarboximidamide (0.87 g, 3.3 mmol) (prepared according to the procedure described in preparation 5) by following the procedure described in example 41 (0.22 g, yield 15.7%, mp 151-155° C., purity 99.72% by HPLC). 1H-NMR (CDCl3):δ 1.37-1.40 (t, 3H), 2.45 (s, 3H), 2.55 (s, 3H), 4.38-4.43 (q, 2H), 7.02-7.07 (m, 4H), 7.11-7.14 (m, 2H), 7.22-7.26 (m, 2H). IR (KBr) cm−1: 3360, 3072, 2978, 2924, 1694 (—C═O). MS m/z:431.2 (M+).

reactant | diethyl [bis(methylthio)methylene]malonate | 3.3 mmol, 0.88 g | CSC(SC)=C(C(=O)OCC)C(=O)OCC | C10H16O4S2
reactant | N-(4-fluorophenyl)-4-(methylthio)benzenecarboximidamide | 3.3 mmol, 0.87 g | FC1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)SC | C14H13FN2S
reactant | KBr | [K+].[Br-]
product | ethyl 1-(4-fluorophenyl)-4-(methylthio)-2-[4-(methylthio)phenyl]-6-oxo-1,6-dihydropyrimidine-5-carboxylate | yield 15.7% | FC1=CC=C(C=C1)N1C(=NC(=C(C1=O)C(=O)OCC)SC)C1=CC=C(C=C1)SC | C21H19FN2O3S2
